US08455613B2
Synthesis of tert-butyl 4-(4-bromophenyl)butanoate
Allowed tert-butanol to melt and added 20 mL to round bottom flask. To the solution, added di-tert-butyl-dicarbonate (1.79 g, 8.22 mmol) and 4-(4-bromophenyl)butyric acid (1.0 g, 4.11 mmol). To reaction, then added DMAP (150.7 mg, 1.23 mmol) and stirred reaction at room temperature over night. The reaction was concentrated via vacuo, and re-diluted in ethyl acetate. The organic layer was washed with 1M HCl, brine, and water. After removal of solvent, the crude solids were purified via column chromatography (20:1, hexanes:EtOAc) to give the desired product (570 mg, 46%), which is a clear oil. 1H NMR (500 MHz, CD2Cl2): δ=7.39-7.41 (d, 2H), 7.03-7.09 (d, 2H), 2.57-2.60 (t, 2H), 2.18-2.21 (t, 2H), 1.83-1.186 (p, 2H), 1.42 (s, 9H).

reactant | di-tert-butyl-dicarbonate | 8.22 mmol, 1.79 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(4-bromophenyl)butyric acid | 4.11 mmol, 1.0 g | BrC1=CC=C(C=C1)CCCC(=O)O | C10H11BrO2
catalyst | DMAP | 1.23 mmol, 150.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | tert-butyl 4-(4-bromophenyl)butanoate | 570 mg, 46% | BrC1=CC=C(C=C1)CCCC(=O)OC(C)(C)C | C14H19BrO2
